US07129238B2
A solution of (RS)-(2,6-difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid ethyl ester (500 mg) in pyridine (5 ml) was placed under N2 and cooled to 0° C. Tf2O (813 mg) was added and the resulting solution was left to stir in the ice bath. After 18 h the reaction mixture was poured on a mixture of 50 ml 1 N HCl and ice. The product was extracted with AcOEt. The organic layer was washed with more 1 N HCl (50 ml), water (50 ml) and brine (30 ml). The aqueous layers were extracted with more AcOEt. After drying (MgSO4) the solvent was evaporated to obtain 738 mg (98%) of (RS)-(2,6-difluoro-4-trifluoromethanesulfonyloxy-phenyl)-ethoxy-acetic acid ethyl ester. Yellow oil. MS 393.4 ([M+H]+).

reactant | (RS)-(2,6-difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid ethyl ester | 500 mg | C(C)OC(C(OCC)C1=C(C=C(C=C1F)O)F)=O | C12H14F2O4
reactant | Tf2O | 813 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | HCl | 1 N, 50 ml | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (RS)-(2,6-difluoro-4-trifluoromethanesulfonyloxy-phenyl)-ethoxy-acetic acid ethyl ester | 738 mg, 98% | C(C)OC(C(OCC)C1=C(C=C(C=C1F)OS(=O)(=O)C(F)(F)F)F)=O | C13H13F5O6S
